US04282031
1-(2-Dimethylaminocarbonylbenzoyl)-2-methyl-4-phenyl-3-thiosemicarbazide
1-(2-Carbomethoxybenzoyl)-2-methyl-4-phenyl-3-thiosemicarbazide (5 g, 0.148 mole) was suspended in aqueous dimethylamine. The pH of the suspension was adjusted to about 3. A tacky precipitate was formed which became solid after addition of diethyl ether. This solid--title product--had a melting point of 140°-143°, yield 3.7 g.

reactant | 1-(2-Carbomethoxybenzoyl)-2-methyl-4-phenyl-3-thiosemicarbazide | 0.148 mole, 5 g | C(=O)(OC)C1=C(C(=O)NN(C(=S)NC2=CC=CC=C2)C)C=CC=C1 | C17H17N3O3S
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | dimethylamine | CNC | C2H7N
product | 1-(2-Dimethylaminocarbonylbenzoyl)-2-methyl-4-phenyl-3-thiosemicarbazide | CN(C(=O)C1=C(C(=O)NN(C(=S)NC2=CC=CC=C2)C)C=CC=C1)C | C18H20N4O2S
